US07235687B2
Step 1: Benzyloxycarbonyl-L-homocystine
L-homocystine (5 g) was dissolved in a mixture (80 ml) of dioxane/H2O. At 0° C. and under stirring, 1.52 g (2.1 eq) of NaOH and a solution of 7.8 g (2.4 eq) of benzylchloroformate in 40 ml dioxane were added. The pH was maintained at 9 by addition of a solution of NaOH 1M. After stirring for 2.30 h at room temperature, 100 ml H2O were added and the white precipitate was extracted by Et20 (2×50 ml). The aqueous phase was acidified to pH 1 and the precipitate was extracted by EtOAc (4×80 ml). The organic phase was washed, dried over Na2SO4, filtered and evaporated in vacuo. White solid 10.2 g (100%).

reactant | L-homocystine | 5 g | C(C[C@@H](C(=O)O)N)SSCC[C@@H](C(=O)O)N | C8H16N2O4S2
reactant | NaOH | 1.52 g, 2.1 eq | [OH-].[Na+]
reactant | benzylchloroformate | 7.8 g, 2.4 eq | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | NaOH | 1M | [OH-].[Na+]
reactant | H2O | 100 ml | O | H2O
solvent | dioxane H2O | 80 ml | O1CCOCC1.O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | Benzyloxycarbonyl-L-homocystine | C(C1=CC=CC=C1)OC(=O)C(C[C@@H](C(=O)O)N)SSCC[C@@H](C(=O)O)N | C16H22N2O6S2
